US07196111B2
According to a modification of a literature procedure (Suzuki, A. et al Tetrahedron Lett. 1986, 27, 6369–6372) a mixture of 43 mg (0.1 mmol) of 5-(4-bromo-phenyl)-6-cyclohexyl-7-oxo-4,7-dihydro-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid methyl ester, 7.3 mg (0.01 mmol) of Pd catalyst, 0.4 mL (0.2 mmol) of B-Benzyl-9-BBN 0.5 M solution in THF, and 63 mg (0.3 mmol) of potassium phosphate, was purged with argon, 1 mL of 1,4-dioxane was added, and the resulting mixture was shaken at 80° C. in a sandbath overnight. The reaction mixture was then diluted with dichloromethane, filtered through a small pad of Celite, dried over sodium sulfate and evaporated to give a residue, which was purified via reverse-phase chromatography (Gilson) to afford desired 5-(4-benzyl-phenyl)-6-cyclohexyl-7-oxo-4,7-dihydro-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid methyl ester as a solid as indicated by LC-MS—calcd for C27H27N3O3 [M++H]+: 442.21, found: 442.2. This material was then converted to 5-(4-benzyl-phenyl)-6-cyclohexyl-7-oxo-4,7-dihydro-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid (581) via a LiOH saponification (33% yield over 2 steps); LC-MS—calcd for C26H25N3O3 [M++H]+: 428.19, found: 428.2.

reactant | 5-(4-bromo-phenyl)-6-cyclohexyl-7-oxo-4,7-dihydro-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid methyl ester | 0.1 mmol, 43 mg | COC(=O)C1=NN2C(NC(=C(C2=O)C2CCCCC2)C2=CC=C(C=C2)Br)=C1 | C20H20BrN3O3
reactant | B-Benzyl-9-BBN | 0.2 mmol, 0.5 M, 0.4 mL | B1(C2CCCC1CCC2)CC3=CC=CC=C3 | C15H21B
reactant | potassium phosphate | 0.3 mmol, 63 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 1,4-dioxane | 1 mL | O1CCOCC1 | C4H8O2
catalyst | Pd | 0.01 mmol, 7.3 mg | [Pd] | Pd
solvent | THF | C1CCOC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-(4-benzyl-phenyl)-6-cyclohexyl-7-oxo-4,7-dihydro-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid methyl ester | 33% yield | COC(=O)C1=NN2C(NC(=C(C2=O)C2CCCCC2)C2=CC=C(C=C2)CC2=CC=CC=C2)=C1 | C27H27N3O3
